US05847148
Preparation of α-[[[(4,5-Dihydro-5-thioxo-1,3,4-thiadiazol-2-yl)amino]carbonyl]amino]-N-(2-phenylethyl)-(S)-cyclohexanepropanamide.
Following the general procedure outlined in EXAMPLE 5, and making non-critical variations but starting with N-[[(4,5-dihydro-5-thioxo-1,3,4-thiadiazol-2-yl)amino]carbonyl]-β-cyclohexyl-L-alanine methyl ester (prepared similarly to that described in EXAMPLE 1) and phenethylamine, the title compound is obtained (mp 199°-200° C.).

reactant | N-[[(4,5-dihydro-5-thioxo-1,3,4-thiadiazol-2-yl)amino]carbonyl]-β-cyclohexyl-L-alanine methyl ester | COC([C@@H](NC(=O)NC=1SC(NN1)=S)CC1CCCCC1)=O | C13H20N4O3S2
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
product | α-[[[(4,5-Dihydro-5-thioxo-1,3,4-thiadiazol-2-yl)amino]carbonyl]amino]-N-(2-phenylethyl)-(S)-cyclohexanepropanamide | S=C1NN=C(S1)NC(=O)N[C@H](C(=O)NCCC1=CC=CC=C1)CC1CCCCC1 | C20H27N5O2S2
